US07504412B2
4′-Fluoro-N-(2-isopropylimidazo[1,2-a]pyridin-6-yl)[1,1′-biphenyl]-4-carboxamide
Conducting the operations similar to those of Example 1 using 2-isopropyl-6-nitroimidazo[1,2-a]pyridine hydrobromide and 4′-fluoro[1,1′-biphenyl]-4-carboxylic acid, the title compound was obtained as white solid.

reactant | 2-isopropyl-6-nitroimidazo[1,2-a]pyridine hydrobromide | Br.C(C)(C)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1
reactant | 4′-fluoro[1,1′-biphenyl]-4-carboxylic acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
product | 4′-Fluoro-N-(2-isopropylimidazo[1,2-a]pyridin-6-yl)[1,1′-biphenyl]-4-carboxamide | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC=1C=CC=2N(C1)C=C(N2)C(C)C | C23H20FN3O
